US05670505
To a stirred mixture of (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]piperazine (0.3 g) and 2-(1H-indol-3-yl)acetic acid (0.13 g) in dichloromethane (8 ml) containing triethylamine (0.25 ml) was added 2-chloro-1-methylpyridinium iodide (0.22 g) at room temperature under nitrogen atmosphere. After being stirred for 5 hours, the reaction mixture was diluted with dichloromethane and washed with 0.1N hydrochloric acid, aqueous saturated sodium bicarbonate solution and brine, and dried over magnesium sulfate. After removal of the solvent, the residue was purified by column chromatography on silica gel using chloroform-methanol (50:1) as eluent to give (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[2-(1H-indol-3-yl)acetyl]piperazine (0.34 g) as a white powder.

reactant | (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]piperazine | 0.3 g | C(C1=CC=CC=C1)[C@H]1N(CCNC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C20H18F6N2O
reactant | 2-(1H-indol-3-yl)acetic acid | 0.13 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 0.22 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[2-(1H-indol-3-yl)acetyl]piperazine | 0.34 g | C(C1=CC=CC=C1)[C@H]1N(CCN(C1)C(CC1=CNC2=CC=CC=C12)=O)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C30H25F6N3O2
